US04052455
4-Nitrostyrylsulfonyl chloride (2.5 g., 0.01 mole) is added portion-wise to a solution of 4-nitrobenzamidine (1.65 g., 0.01 mole), prepared according to the procedure of L. Weintraub, et al., J. Org. Chem., 33, 1979 (1968), and triethylamine (1.01 g., 0.01 mole) in 50 ml. of acetone at 10° C. After stirring for a period of 1 hr. at 25° C., the mixture is concentrated under reduced pressure and the residual material stirred with water and collected. Triturating the filter cake with acetone provides N-(4-NITROSTYRYLSULFONYL)-4-NITROBENZAMIDINE, m.p. 173°-177° C.

reactant | 4-Nitrostyrylsulfonyl chloride | 0.01 mole, 2.5 g | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)Cl)C=C1 | C8H6ClNO4S
reactant | 4-nitrobenzamidine | 0.01 mole, 1.65 g | [N+](=O)([O-])C1=CC=C(C(=N)N)C=C1 | C7H7N3O2
reactant | triethylamine | 0.01 mole, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | N-(4-NITROSTYRYLSULFONYL)-4-NITROBENZAMIDINE | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)NC(C2=CC=C(C=C2)[N+](=O)[O-])=N)C=C1 | C15H12N4O6S
